US06589967B1
0.50 g (3.68 mmol) of 2,3-dimethylanisole was dissolve in 10 ml of carbon tetrachloride. The resultant solution was then added with 0.72 g (4.04 mmol) of N-bromosuccinimide, and the obtained solution was subjected to irradiation of light (Infrared lamp 375WR manufactured by Toshiba) for 45 min. at the reflux temperature. The solution was then cooled down, and the temperature thereof was maintained at a room temperature to cause the precipitation. The precipitated succinimide was separated by filtration, and the obtained filtrate was condensed under reduced pressure to produce a crude product of 2-methoxy-6-methylbenzyl bromide.

reactant | 2,3-dimethylanisole | 3.68 mmol, 0.50 g | CC1=C(C=CC=C1C)OC | C9H12O
reactant | N-bromosuccinimide | 4.04 mmol, 0.72 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-methoxy-6-methylbenzyl bromide | COC1=C(CBr)C(=CC=C1)C | C9H11BrO
